* C:\Users\pablo\OneDrive\Escritorio\Universidad\Analogica 1\Proyecto Uno\Proyecto Analogica\A12_Notch_Activo.asc
R1 N002 Vin {R1}
C1 Vin N002 {C1}
C2 N003 N001 {C2}
V1 Vcc 0 15
V2 0 -Vcc 15
V3 Vin 0 PWL file=sig_in.csv AC 5
R2 N002 0 {R2}
R4 Vout N001 {R4}
XU2 N002 N001 Vcc -Vcc Vout LT1001
XU3 N004 N001 Vcc -Vcc N003 LT1001
R3 N003 N002 {R3}
R5 N004 Vout {R5}
R6 Vin N004 {R6}
.tran 0 {transtop} 0 {timestep} startup
.include param.txt
.include trancmd.txt
* do not edit this by hand
.lib LTC.lib
.backanno
.end
